US05834463
(3aR*,10aS*)-9-Benzyl-4-((4-fluorophthalimido)acetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one
A suspension of (3aR*,10aS*)-4-(aminoacetyl)-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta-[e][1,4]diazepin-10(1H)-one (490 mg, 1.4 mmol) and 4-fluorophthalic acid anhydride (233 mg, 1.4 mmol) in xylene (3 mL) was stirred for 30 minutes at 140° C. The reaction mixture was left standing for cooling at room temperature, to which was added hexane (5 mL). The resulting solid was collected by filtration, followed by recrystallization from dichloromethane-hexane to give 436 mg (yield 62%) of the titled compound, m.p. 235°-236° C.

reactant | (3aR*,10aS*)-4-(aminoacetyl)-9-benzyl-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta-[e][1,4]diazepin-10(1H)-one | 1.4 mmol, 490 mg | NCC(=O)N1C2=C(N(C([C@@H]3[C@H]1CCC3)=O)CC3=CC=CC=C3)C=CC=C2 | C21H23N3O2
reactant | 4-fluorophthalic acid anhydride | 1.4 mmol, 233 mg | FC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3FO3
reactant | hexane | 5 mL | CCCCCC | C6H14
solvent | xylene | 3 mL | C=1(C(=CC=CC1)C)C | C8H10
product | (3aR*,10aS*)-9-Benzyl-4-((4-fluorophthalimido)acetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one | 436 mg, yield 62% | C(C1=CC=CC=C1)N1C2=C(N([C@H]3[C@@H](C1=O)CCC3)C(CN3C(C=1C(C3=O)=CC(=CC1)F)=O)=O)C=CC=C2 | C29H24FN3O4
